US04192890
A solution of 95 g of p-bromochlorobenzene in 250 cc of ether was added to 15 g of magnesium in 250 cc of ether while maintaining the reaction mixture at reflux. The mixture was stirred for 11/2 hours at room temperature to obtain a solution containing 0.78 mole per liter of p-chlorophenyl magnesium bromide. 17.9 g of cadmium chloride were added to 230 cc of the acid solution and after stirring for 10 minutes, the ether was distilled off while maintaining the volume constant by addition of benzene to obtain a benzene solution of bis-(p-chlorobenzene) cadmium compound.

reactant | p-bromochlorobenzene | 95 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | magnesium | 15 g | [Mg] | Mg
reactant | p-chlorophenyl magnesium bromide | 0.78 mole per liter | ClC1=CC=C(C=C1)[Mg]Br
reactant | cadmium chloride | 17.9 g | [Cl-].[Cd+2].[Cl-]
solvent | ether | 250 cc | CCOCC | C4H10O
solvent | ether | 250 cc | CCOCC | C4H10O
product | bis-(p-chlorobenzene) cadmium | [Cd].ClC1=CC=CC=C1.ClC1=CC=CC=C1 | InChI=1S/2C6H5Cl.Cd/c2*7-6-4-2-1-3-5-6;/h2*1-5H;
